US06951879B2
According to the method in example 18, Methanesulfonic acid 5-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester and Diethylamine were converted to yield {5-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-diethyl-amine, MS: 383 (MH+).

reactant | Methanesulfonic acid 5-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCOS(=O)(=O)C | C19H16ClNO3S2
reactant | Diethylamine | C(C)NCC | C4H11N
product | {5-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-diethyl-amine | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCN(CC)CC | C22H23ClN2S
